US08871361B2
Synthesis of 1-(3-methoxyphenyl)isoquinoline
1-chloroisoquinoline (7 g, 42.8 mmol), (3-methoxyphenyl)boronic acid (8.78 g, 57.8 mmol), Tris(dibenzylideneacetone)palladium(0) (0.783 g, 0.856 mmol) and 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (S-Phos) (1.403 g, 3.42 mmol) were charged into the reaction vessel with 250 mL of toluene. Lastly, potassium phosphate tribasic monohydrate (29.5 g, 128 mmol) was dissolved in 60 mL of water and was charged into the reaction mixture. The reaction was degassed with nitrogen gas then was heated to reflux for 18 h. The reaction mixture was cooled to room temperature and the toluene layer was separated and dried over magnesium sulfate. The organics were filtered and stripped under vacuum. The crude residue was purified by silica gel chromatography using 25-35% ethyl acetate/hexanes yielding 9.4 g (93%) of 1-(3-methoxyphenyl)isoquinoline as a viscous yellow oil.

reactant | 1-chloroisoquinoline | 42.8 mmol, 7 g | ClC1=NC=CC2=CC=CC=C12 | C9H6ClN
reactant | (3-methoxyphenyl)boronic acid | 57.8 mmol, 8.78 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 3.42 mmol, 1.403 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | potassium phosphate tribasic monohydrate | 128 mmol, 29.5 g | O.[O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | water | 60 mL | O | H2O
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(3-methoxyphenyl)isoquinoline | COC=1C=C(C=CC1)C1=NC=CC2=CC=CC=C12 | C16H13NO
